US06872835B2
1-Octyne-3-ol (1.136 g, 9 mmol), aniline (0.559 g, 6 mmol), Ru3(CO)12 (16.0 mg, 0.025 mmol) and aniline hydrochloride (0.130 g, 1.0 mmol) were placed in a 10 ml round-bottomed flask, and the mixture was stirred at 140° C. for 9 hours. After cooling, diethyl ether (3 mL) was added, and the organic layer was washed twice with 1 M hydrochloric acid (2 mL) and once with water (2 mL). The organic layer was dried over sodium sulfate, and the solvent was distilled away, whereby an 11:1 mixture of 3-methyl-2-pentyl indole and 2-methyl-3-pentyl indole (1.262 g; 6.3 mmol; yield, 95%; purity, about 95% or more) was obtained.

reactant | 1-Octyne-3-ol | 9 mmol, 1.136 g | C#CC(CCCCC)O | C8H14O
reactant | aniline | 6 mmol, 0.559 g | NC1=CC=CC=C1 | C6H7N
reactant | aniline hydrochloride | 1.0 mmol, 0.130 g | Cl.NC1=CC=CC=C1
catalyst | Ru3(CO)12 | 0.025 mmol, 16.0 mg | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Ru].[Ru].[Ru]
solvent | diethyl ether | 3 mL | C(C)OCC | C4H10O
product | 2-methyl-3-pentyl indole | 6.3 mmol, 1.262 g | CC=1NC2=CC=CC=C2C1CCCCC | C14H19N
